US04454120
A solution of N2 -(tert-butyloxycarbonyl)-N-(3-phenylpropyl)-D-methioninamide (1.75 g.) in acetic acid (10 ml.) and hydrogen chloride-ethyl acetate (4 N, 20 ml.) was stirred at room temperature for one hour, then stripped of volatiles under vacuum. A solution of the residue in ethyl acetate-ether was stripped of volatiles under vacuum, finally over phosphorous pentoxide and potassium hydroxide, affording N-(3-phenylpropyl)-D-methioninamide hydrochloride as a vicous oil (1.50 g.).

reactant | N2 (tert-butyloxycarbonyl)-N-(3-phenylpropyl)-D-methioninamide | 1.75 g | N#N.C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)NCCCC1=CC=CC=C1
reactant | phosphorous pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen chloride-ethyl acetate | 4 N, 20 ml | C(C)(=O)OCC.Cl
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-(3-phenylpropyl)-D-methioninamide hydrochloride | Cl.C1(=CC=CC=C1)CCCNC([C@H](N)CCSC)=O | InChI=1S/C14H22N2OS.ClH/c1-18-11-9-13(15)14(17)16-10-5-8-12-6-3-2-4-7-12;/h2-4,6-7,13H,5,8-11,15H2,1H3,(H,16,17);1H/t13-;/m1./s1
